US05571833
2-Chloro-3-methyl-4-nitrophenol (9.39 g, 50.0 mmol) was reacted with sodium hydride (50%, 2.64 g, 55.0 mmol) and methyl iodide (7.81 g, 55.0 mmol) in dry DMF (200 ml) by the method described in 1 (a). After treatment with water, the product was extracted with chloroform, and the dried extract evaporated to dryness, leaving an oil which crystallised on cooling, leaving solid 2-chloro-3-methyl-4-nitroanisole (8.19 g).

reactant | 2-Chloro-3-methyl-4-nitrophenol | 50.0 mmol, 9.39 g | ClC1=C(C=CC(=C1C)[N+](=O)[O-])O | C7H6ClNO3
reactant | sodium hydride | 55.0 mmol, 2.64 g | [H-].[Na+]
reactant | methyl iodide | 55.0 mmol, 7.81 g | CI | CH3I
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-chloro-3-methyl-4-nitroanisole | 8.19 g | ClC1=C(C=CC(=C1C)[N+](=O)[O-])OC | C8H8ClNO3
